US07632837B2
54E. Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-3-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine
A solution of N′-(5-(2-chlorophenyl)-4-(4-chlorophenyl)pyridin-2-yl)-2-(2-methyl-6-(trifluoromethyl)pyridin-3-yl)acetohydrazide (80 mg, 0.15 mmol) and acetic acid (0.5 mL) in ethanol (1 mL) was heated in a microwave oven at 180° C. for 30 min. Analysis by HPLC/MS indicated about 40% of starting material remained. The reaction mixture was heated again in a microwave oven at 180° C. for additional 30 min. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The obtained residue was taken into EtOAc, and the solution was washed with saturated aqueous NaHCO3, saturated aqueous NaCl dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified using reverse phase preparative HPLC (Conditions: Phenomenex Luna 5μ C18 21.2×100 mm; Eluted with 70% to 100% B, 10 min gradient, 100% B hold for 4 min, (A=90% H2O, 10% MeOH and B=10% H2O, 90% MeOH); Flow rate at 20 mL/min, UV detection at 220 nm) to yield the desired product with about 64% purity. The product was further purified using a silica gel cartridge (12 g) eluting with a gradient of EtOAc (0-70%) in hexanes to afford 18 mg (23%) of the title compound. HPLC/MS (method A): retention time=3.91 min, (M+H)+=513.1.

reactant | N′-(5-(2-chlorophenyl)-4-(4-chlorophenyl)pyridin-2-yl)-2-(2-methyl-6-(trifluoromethyl)pyridin-3-yl)acetohydrazide | 0.15 mmol, 80 mg | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)NNC(CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C=C1)Cl | C26H19Cl2F3N4O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-3-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine | ClC1=C(C=CC=C1)C=1C(=CC=2N(C1)C(=NN2)CC=2C(=NC(=CC2)C(F)(F)F)C)C2=CC=C(C=C2)Cl | C26H17Cl2F3N4
